US07906546B2
To a stirred solution of 5.0 g (0.023 mol) of benzenesulfonyl-acetic acid methyl ester in 10 mL of MeOH at RT, 3.50 g (0.070 mol, 3 eq) of hydrazine hydrate were added. After one hour, the solvent and the excess of hydrazine were removed under reduced pressure, yielding 4.90 g (quantitative) of benzenesulfonyl-acetic acid hydrazide as a colorless oil, MS: 232 (MNH4+).

reactant | benzenesulfonyl-acetic acid methyl ester | 0.023 mol, 5.0 g | COC(CS(=O)(=O)C1=CC=CC=C1)=O | C9H10O4S
reactant | hydrazine hydrate | 0.070 mol, 3.50 g, 3 eq | O.NN
solvent | MeOH | 10 mL | CO | CH4O
product | benzenesulfonyl-acetic acid hydrazide | 4.90 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)NN | C8H10N2O3S
